US08975400B2
4-(2-cyano-4-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)p-henoxy)-2-fluorobenzonitrile
Prepared in a manner similar to that described for E60 using tert-butyl 7-((3-cyano-4-(4-cyano-3-fluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate (70 mg, 0.139 mmol) in DCM (4 mL) and TFA (0.5 mL).

reactant | tert-butyl 7-((3-cyano-4-(4-cyano-3-fluorophenoxy)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | 0.139 mmol, 70 mg | C(#N)C=1C=C(COC=2C=C3N(C(N2)=O)CCN3C(=O)OC(C)(C)C)C=CC1OC1=CC(=C(C=C1)C#N)F | C26H22FN5O5
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-cyano-4-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)p-henoxy)-2-fluorobenzonitrile | C(#N)C1=C(OC2=CC(=C(C#N)C=C2)F)C=CC(=C1)COC=1C=C2N(C(N1)=O)CCN2 | C21H14FN5O3
